US06740662B1
A mixture of 700 mg of 4-(3-chlorophenyl)-3-(2-cyanoethyl)-1-ethyl-7-methyl-1,8-naphthyridin-2-(1H)-one, 388 mg of sodium azide, 411 mg of triethylamine hydrochloride and 10 ml of 1-methylpyrrolidin-2-one were stirred at 130° C. for 20 hours. The reaction mixture was cooled to room temperature, acidified by adding 1M hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with water and saturated brine and the solvent was evaporated. The residue was purified by a silica gel column chromatography (hexane-ethyl acetate) and then recrystallized from ethyl acetate-diisopropyl ether to obtain 130 mg of 4-(3-chlorophenyl)-1-ethyl-7-methyl-3-[2-(1H-tetrazol-5-yl)ethyl]-1,8-naphthyridin-2(1H)-one as pale yellow crystals.

reactant | 4-(3-chlorophenyl)-3-(2-cyanoethyl)-1-ethyl-7-methyl-1,8-naphthyridin-2-(1H)-one | 700 mg | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCC#N | C20H18ClN3O
reactant | sodium azide | 388 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 411 mg | Cl.C(C)N(CC)CC
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | 1-methylpyrrolidin-2-one | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(3-chlorophenyl)-1-ethyl-7-methyl-3-[2-(1H-tetrazol-5-yl)ethyl]-1,8-naphthyridin-2(1H)-one | 130 mg | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCC1=NN=NN1 | C20H19ClN6O
